US07323462B2
(S)-2-propylamino-propan-1-ol hydrochloride
To (S)-(+)-2-amino-1-propanol (19.6 g, 0.26 mol) dissolved in dichloromethane (500 ml) was added propionaldehyde (20.9 ml, 0.28 mol) followed by pre-dried powdered 4A molecular sieves (40 g) and the mixture stirred at room temperature overnight. The mixture was filtered through a pad of celite, the pad washed with dichloromethane, and solvent evaporated to give a clear oil. This oil was dissolved in methanol (200 ml) and NaBH4 was added portionwise over 15 minutes. The mixture was stirred at room temperature overnight, then quenched by cautious addition of 2M HCl(aq) (200 ml), basified by addition of 2M NaOH (200 ml) and methanol removed by evaporation. Di-tert-butyldicarbonate (115 g, 0.52 mol) was added followed by 1,4-dioxan (200 ml) and the mixture stirred at room temperature overnight. 1,4-dioxan was removed by evaporation giving a clear oil. To this oil was added 4M HCl in 1,4-dioxan (200 ml) and the mixture stirred at room temperature overnight. The solvent was removed by evaporation to give a white solid (24 g).

reactant | (S)-(+)-2-amino-1-propanol | 0.26 mol, 19.6 g | N[C@H](CO)C | C3H9NO
reactant | propionaldehyde | 0.28 mol, 20.9 ml | C(CC)=O | C3H6O
reactant | NaBH4 | [BH4-].[Na+]
reactant | Di-tert-butyldicarbonate | 0.52 mol, 115 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
solvent | 1,4-dioxan | 200 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | (S)-2-propylamino-propan-1-ol hydrochloride | 24 g | Cl.C(CC)N[C@H](CO)C | InChI=1S/C6H15NO.ClH/c1-3-4-7-6(2)5-8;/h6-8H,3-5H2,1-2H3;1H/t6-;/m0./s1
